US04035512
In 20 ml. of methanol is dissolved 300 mg. of trans-6-benzyloxy-2-cyclobutylamino-1-hydroxy-5-hydroxymethyl-1,2,3,4-tetrahydronaphthalene and catalytic reduction is carried out in the presence of 5% palladium-on-carbon as the catalyst. When no more hydrogen is absorbed, the catalyst is filtered off and 60 mg. of acetic acid is added to the filtrate. The mixture is concentrated under reduced pressure and the residue is recrystallized from methanolethyl acetate. The procedure yields trans-2-cyclobutylamino-1,6-dihydroxy-5-hydroxymethyl-1,2,3,4-tetrahydronaphthalene acetate as colorless platelets melting at 143°-145° C (decomp.)

reactant | trans-6-benzyloxy-2-cyclobutylamino-1-hydroxy-5-hydroxymethyl-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC1CCC1)CO | C22H27NO3
reactant | methanol | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | trans-2-cyclobutylamino-1,6-dihydroxy-5-hydroxymethyl-1,2,3,4-tetrahydronaphthalene acetate | C(C)(=O)O.C1(CCC1)N[C@H]1[C@@H](C2=CC=C(C(=C2CC1)CO)O)O | InChI=1S/C15H21NO3.C2H4O2/c17-8-12-10-4-6-13(16-9-2-1-3-9)15(19)11(10)5-7-14(12)18;1-2(3)4/h5,7,9,13,15-19H,1-4,6,8H2;1H3,(H,3,4)/t13-,15-;/m1./s1
